US09227973B2
Step C: (6R)-3′-Methyl-2′,5′-dioxo-5,7-dihydrospiro[cyclopenta[b]pyridine-6,4′-imidazolidine]-3-carboxylic acid
To a solution of methyl (6R)-3′-methyl-2′,5′-dioxo-5,7-dihydrospiro[cyclopenta[b]pyridine-6,4′-imidazolidine]-3-carboxylate (450 mg, 1.64 mmol) in THF (8 mL) and H2O (2 mL) was added 1 N aqueous lithium hydroxide (1.96 mL, 1.96 mmol). The reaction was stirred at ambient temperature for 2 h, adjusted to pH 4 by addition of 1 N hydrochloric acid, and concentrated in vacuo to provide the title compound. MS: m/z=262.1 (M+1). 1H NMR (500 MHz, CD3OD) δ 8.96 (s, 1H), 8.24 (s, 1H), 3.54 (d, 1H, J=18.1 Hz), 3.52 (d, 1H, J=17.3 Hz), 3.40 (d, 1H, J=17.3 Hz), 3.39 (d, 1H, J=18.1 Hz), 2.71 (s, 3H).

reactant | methyl (6R)-3′-methyl-2′,5′-dioxo-5,7-dihydrospiro[cyclopenta[b]pyridine-6,4′-imidazolidine]-3-carboxylate | 1.64 mmol, 450 mg | CN1C(NC([C@]12CC=1C(=NC=C(C1)C(=O)OC)C2)=O)=O | C13H13N3O4
reactant | lithium hydroxide | 1.96 mmol, 1 N, 1.96 mL | [OH-].[Li+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | H2O | 2 mL | O | H2O
product | (6R)-3′-Methyl-2′,5′-dioxo-5,7-dihydrospiro[cyclopenta[b]pyridine-6,4′-imidazolidine]-3-carboxylic acid | CN1C(NC([C@]12CC=1C(=NC=C(C1)C(=O)O)C2)=O)=O | C12H11N3O4
